US05137890
2-Amino-4-(4-fluorophenyl)-6-ethyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
The title compound was prepared as described in Example 17 starting with 2-amino-4-(4-fluorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride hemihydrate (1.8 g, 5.5 mmol) and iodoethane (0.4 mL, 5.5 mmol) to produce 0.91 g (48%) of 2-amino-4-(4-fluorophenyl)-6-ethyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine. m.p. 242°-243° C. MS: 273 (HM+). IR(KBr): 3301, 3132, 2575, 1626, 1604 cm-1. 1H NMR (DMSO-d6) ∂7.63 (m,2H), 7.19 (m,2H), 4.39-3.01 (m,8H), 1.25 (t,J=2.4 Hz, 2H).

reactant | 2-amino-4-(4-fluorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride hemihydrate | 5.5 mmol, 1.8 g | O.Cl.Cl.NC=1N=C(C2=C(N1)CCNC2)C2=CC=C(C=C2)F.NC=2N=C(C1=C(N2)CCNC1)C1=CC=C(C=C1)F.Cl.Cl
reactant | iodoethane | 5.5 mmol, 0.4 mL | ICC | C2H5I
product | 2-amino-4-(4-fluorophenyl)-6-ethyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.91 g, 48% | NC=1N=C(C2=C(N1)CCN(C2)CC)C2=CC=C(C=C2)F | C15H17FN4
